US04711898
Ethyl 2-furoylacetate
Sodium hydride (4.4 grams) and 10.7 grams of diethyl carbonate are suspended in 60 ml of tetrahydrofuran and 10 grams of 2-acetylfuran is gradually added thereto by keeping the inner temperature at 40°to 50° C. A small amount of ethanol is added thereto, heated to reflux for three hours, and the reaction is made stopped by addition of 20 ml of ethanol. The mixture is poured into ice water, extracted with ether, the ether extracts are combined, washed with water, dried with anhydrous magnesium sulfate, and ether is evaporated therefrom. The resulting oil is purified by distilling in vacuo to give 10 grams of pale yellow oily product, b.p. 90° C./3 mmHg.

reactant | Sodium hydride | 4.4 grams | [H-].[Na+]
reactant | diethyl carbonate | 10.7 grams | C(OCC)(OCC)=O | C5H10O3
reactant | 2-acetylfuran | 10 grams | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Ethyl 2-furoylacetate | 10 grams | O1C(=CC=C1)C(=O)CC(=O)OCC | C9H10O4
